US04963677
(a) 7-[3(4-Acetamidophenyl)thioureido]-3,4-dihydro-2(1H)quinolone
A mixture containing 1.92 g of 4-acetamidophenylisothiocyanate and 1.62 g of 7-amino-3,4-dihydro-2(1H)quinolone in 10 ml of DMF was stirred for 6 h at 20° C. Water was added and the product filtered and washed with water. Yield 85%.

reactant | 4-acetamidophenylisothiocyanate | 1.92 g | C(C)(=O)NC1=CC=C(C=C1)N=C=S | C9H8N2OS
reactant | 7-amino-3,4-dihydro-2(1H)quinolone | 1.62 g | NC1=CC=C2CCC(NC2=C1)=O | C9H10N2O
reactant | Water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 7-[3(4-Acetamidophenyl)thioureido]-3,4-dihydro-2(1H)quinolone | Yield 85% | C(C)(=O)NC1=CC=C(C=C1)NC(NC1=CC=C2CCC(NC2=C1)=O)=S | C18H18N4O2S
